US06333414B1
Preparation of [4-(2,5-diphenyloxazol-4-yl)phenyl]dimethylamine
0.5 g of 2-[4-(dimethylamino)phenyl]-2-oxo-1-phenylethyl benzoate is dissolved in 10 ml of dimethylformamide in a reactor. 0.212 g of thiourea (2 eq.) is subsequently added and the reaction mixture is left to react at reflux (160° C.) for 6 hours.

reactant | 2-[4-(dimethylamino)phenyl]-2-oxo-1-phenylethyl benzoate | 0.5 g | C(C1=CC=CC=C1)(=O)OC(C(=O)C1=CC=C(C=C1)N(C)C)C1=CC=CC=C1 | C23H21NO3
reactant | thiourea | 0.212 g, 2 eq. | NC(=S)N | CH4N2S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | [4-(2,5-diphenyloxazol-4-yl)phenyl]dimethylamine | C1(=CC=CC=C1)C=1OC(=C(N1)C1=CC=C(C=C1)N(C)C)C1=CC=CC=C1 | C23H20N2O
